US07169797B2
5-(3-Bromo-phenyl)-isoxazole-3-carboxylic acid methyl ester
To a suspension of 2,4-dioxo-4-(3-bromophenyl)-butyric acid methyl ester (10.3 g, 36.1 mmol) in anhydrous MeOH (100 mL) was added hydroxylamine hydrochloride (3.8 g, 54.2 mmol). The mixture was then refluxed for 90 min. The reaction mixture was then cooled to room temperature, and ice/water mixture (200 mL) was added. The mixture was stirred for 20 minutes, filtered through a Buchner funnel and washed with cold water. The light yellow solid was dried in vacuum oven to provide the title compound (8.9 g, 87% yield).

reactant | 2,4-dioxo-4-(3-bromophenyl)-butyric acid methyl ester | 36.1 mmol, 10.3 g | COC(C(CC(C1=CC(=CC=C1)Br)=O)=O)=O | C11H9BrO4
reactant | hydroxylamine hydrochloride | 54.2 mmol, 3.8 g | Cl.NO
solvent | MeOH | 100 mL | CO | CH4O
product | 5-(3-Bromo-phenyl)-isoxazole-3-carboxylic acid methyl ester | 8.9 g, 87% yield | COC(=O)C1=NOC(=C1)C1=CC(=CC=C1)Br | C11H8BrNO3
